US05541229
tert.butyl 4'-[(2-n-butyl-6-(N-cyclohexylaminocarbonyl-n-butylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate melting point: 106°-108° C. (amorphous)
tert.butyl 4'-[(2-n-butyl-6-(N-(dimethylaminocarbonyl)-n-pentylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.50 (Silica gel: methylethylketone/xylene=1:1)

reactant | tert.butyl 4'-[(2-n-butyl-6-(N-(dimethylaminocarbonyl)-n-pentylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N(C(=O)N(C)C)CCCCC | C37H48N4O3
solvent | methylethylketone xylene | CC(=O)CC.C=1(C(=CC=CC1)C)C
product | tert.butyl 4'-[(2-n-butyl-6-(N-cyclohexylaminocarbonyl-n-butylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N(C(=O)NC2CCCCC2)CCCC | C40H52N4O3
